US05891871
7,8-Methylenedioxy-1-(3-methoxy-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 4,5-methylenedioxy-2-(3-methoxy-4-nitrobenzoyl)phenylacetate (1.2 g, 3.2 mmol) and hydrazine hydrate (0.6 mL, 11 mmol) in ethanol (15 mL) as a yellow solid (0.53 g, 1.5 mmol, 47%), mp: 267°-269° C. 1H NMR (CDCl3) 8.60 (s, 1H), 7.86 (d, J=8.5, 1H), 7.49 (d, J=1.5, 1H), 7.13 (dd, J=8.5, 1.5, 1H), 6.85 (s, 1H), 6.59 (s, 1H), 6.06 (s, 2H), 4.01 (s, 3H), 3.48 (s, 2H). Anal. Calcd. for C17H13N3O6 : C, 57.47; H, 3.69; N, 11.83. Found: C, 57.07; H, 3.42; N, 12.01.

reactant | methyl 4,5-methylenedioxy-2-(3-methoxy-4-nitrobenzoyl)phenylacetate | 3.2 mmol, 1.2 g | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C18H15NO8
reactant | hydrazine hydrate | 11 mmol, 0.6 mL | O.NN
reactant | ethanol | 1.5 mmol, 15 mL, 0.53 g | C(C)O | C2H6O
product | 7,8-Methylenedioxy-1-(3-methoxy-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | C1OC=2C(=CC3=C(CC(NN=C3C3=CC(=C(C=C3)[N+](=O)[O-])OC)=O)C2)O1 | C17H13N3O6
